US04906634
1-Ethyl(phenylmethyl)amino-3-(2-methylpropoxy)-2-propanol
To 100 mL (1.1 mol) of isobutanol under nitrogen atmosphere add 59 g (0.64 mol) of epichlorohydrin and ZnCl2 (1 mL of a 0.872 M solution in Et2O) Stir the reaction mixture at 100° C. for two days, then cool to room temperature and add 91 g (0.67 mol) of ethyl(phenylmethyl)amine and 100 mL of 50% aqueous NaOH. Resume heating for an additional three h. Add water and extract twice with Et2O. Combine the organic layers and dry over anhydrous Na2SO4. Remove the drying agent by filtration and remove the solvent in vacuo. Distillation of the residue (130° C. at 0.4 mm of Hg) provides the title compound.

reactant | isobutanol | 1.1 mol, 100 mL | C(C(C)C)O | C4H10O
reactant | epichlorohydrin | 0.64 mol, 59 g | C(Cl)C1CO1 | C3H5ClO
reactant | ethyl(phenylmethyl)amine | 0.67 mol, 91 g | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | NaOH | 100 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 1-Ethyl(phenylmethyl)amino-3-(2-methylpropoxy)-2-propanol | C(C)C(C(COCC(C)C)O)NCC1=CC=CC=C1 | C16H27NO2
